US04435403
A solution of 1.0 g of 4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester in 20 ml of methylene chloride and 1.5 ml of pyridine is mixed dropwise with 1.5 ml of iodine chloride at room temperature. After 60 minutes, another 1.5 ml of iodine chloride is added and then 200 mg of iodine. The mixture is stirred for another 2 h at room temperature and then poured into an ice-cold saturated sodium thiosulfate solution, followed by extraction with methylene chloride. Crystallization in ethyl acetate yields 520 mg of 6-iodo-4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester with a m.p. of 204°-206° C.

reactant | 4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester | 1.0 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC=C3C2C1COC | C16H16N2O3
reactant | iodine chloride | 1.5 ml | ICl | ClI
reactant | iodine chloride | 1.5 ml | ICl | ClI
reactant | iodine | 200 mg | II | I2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
product | 6-iodo-4-methoxymethyl-beta-carboline-3-carboxylic-acid-ethylester | 520 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)I | C16H15IN2O3
